US08980276B2
Preparation 11: (S)-tert-butyl 2-(5-(1-methylpyrrolidin-2-yl)pyridin-3-yloxy)ethylcarbamate
(S)-5-(1-Methylpyrrolidin-2-yl)pyridin-3-ol (preparation 10) (175 mg, 0.98 mmol), tert-butyl 2-bromoethylcarbamate (550 mg, 2.45 mmol) and potassium carbonate (676 mg, 4.9 mmol) in DMF (7 mL) were heated at 90° C. for 16 hours. The reaction mixture was partitioned between ethyl acetate and water. The aqueous layer was extracted with ethyl acetate, dried over MgSO4 and evaporated. The crude product was purified by flash chromatography (5%→10% MeOH in DCM) to give the title compound as a yellow oil (108 mg, 34%).

reactant | (S)-5-(1-Methylpyrrolidin-2-yl)pyridin-3-ol | 0.98 mmol, 175 mg | CN1[C@@H](CCC1)C=1C=C(C=NC1)O | C10H14N2O
reactant | tert-butyl 2-bromoethylcarbamate | 2.45 mmol, 550 mg | BrCCNC(OC(C)(C)C)=O | C7H14BrNO2
reactant | potassium carbonate | 4.9 mmol, 676 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | (S)-tert-butyl 2-(5-(1-methylpyrrolidin-2-yl)pyridin-3-yloxy)ethylcarbamate | 108 mg, 34% | CN1[C@@H](CCC1)C=1C=C(C=NC1)OCCNC(OC(C)(C)C)=O | C17H27N3O3
